US04370340
To a mixture of 57% hydriodic acid (50 ml) and acetic anhydride (15 ml) was added a solution of ethyl 2-oxo-5-methoxy-3-benzothiazolineacetate (2.67 g) in acetic acid (15 ml). The reaction mixture was refluxed with stirring for 1.5 hours and then cooled to ambient temperature. To the resultant mixture were added ice-water and a small volume of sodium bisulfite. The mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give crystalline 2-oxo-5-hydroxy-3-benzothiazolineacetic acid (1.7 g).

reactant | hydriodic acid | 50 ml | I | HI
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-oxo-5-methoxy-3-benzothiazolineacetate | 2.67 g | O=C1SC2=C(N1CC(=O)OCC)C=C(C=C2)OC | C12H13NO4S
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-oxo-5-hydroxy-3-benzothiazolineacetic acid | 1.7 g | O=C1SC2=C(N1CC(=O)O)C=C(C=C2)O | C9H7NO4S
